US06423660B1
(A) Preparation of 1,2-bisindenylethane
Into a 2 litre two-necked round-bottomed flask, 50 g of indene (437 mmol) were dissolved under inert atmosphere with 500 ml of tetrahydrofuran and were cooled to −78° C. By slow dropping (1 hour) 175 ml of n-butyllithium (2.5 M in hexane, 437.5 mmol) were added. The mixture was allowed to heat up to room temperature and was kept under stirring for 4 hours. It was cooled to −78° C. and 40.42 g of dibromoethane (215 mmol) dissolved in 100 ml of tetrahydrofuran were dropped (within 20 minutes). After the end of the addition, the temperature was raised to 50° C., the whole was kept under stirring for 12 hours, then was cooled down to room temperature and 20 ml of water were added. The organic phase was dried and the residue was extracted with pentane. By evaporation under vacuum 28.65 g of product were obtained (yield=51.6%).

reactant | indene | 437 mmol, 50 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyllithium | 437.5 mmol, 2.5 M, 175 ml | C(CCC)[Li]
reactant | dibromoethane | 215 mmol, 40.42 g | BrC(C)Br | C2H4Br2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1,2-bisindenylethane | yield=51.6% | C1(C=CC2=CC=CC=C12)CCC1C=CC2=CC=CC=C12 | C20H18
